US06509328B1
3-(7-Benzofuran-2-yl-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile
Prepared from {4-benzofuran-2-yl-2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester (Example K28) (255 mg, 0.51 mmol) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (260 mg).

reactant | {4-benzofuran-2-yl-2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester | 0.51 mmol, 255 mg | C(C)(C)(C)OC(NC1=C(C(=CC=C1)C1=CC=C2C(=CC=C2)O1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C29H25N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(7-Benzofuran-2-yl-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile | 260 mg | O1C(=CC=C2C=CC=C21)C2C(NC1=C(N=C2C=2C=C(C#N)C=CC2)C=CC=C1)=O | C24H15N3O2
